Test OpAmp ACDC

***************************************
* Step 1: Replace circuit netlist and parameter here.
***************************************
* Design netlist (needs manual inclusion)
* Design variables (needs manual inclusion)

.param mc_mm_switch=0
.param mc_pr_switch=0

.include /mnt/e/MyResearch/Analog_blocks/models/sky130A/libs.tech/ngspice/sky130.lib.spice


.PARAM supply_voltage = 1.8
.PARAM VCM_ratio = 0.25
.PARAM PARAM_CLOAD =500.00p 

V1 vdd 0 'supply_voltage'
V2 vss 0 0 

Vindc opin 0 'supply_voltage*VCM_ratio'
Vin signal_in 0 dc 'supply_voltage*VCM_ratio' ac 1 sin('supply_voltage*VCM_ratio' 100m 500)

Lfb opout opout_dc 1T
Cin opout_dc signal_in 1T

* XOP gnda vdda vinn vinp vout
*        |  |     |     |   |
*        |  |     |     |   Output
*        |  |     |     Non-inverting Input
*        |  |      Inverting Input
*        |  Positive Supply
*        Negative Supply 

***************************************
* Step 3: Replace circuit name below.
* e.g. Leung_NMCNR_Pin_3 -> Leung_NMCF_Pin_3
*************************************** 
*    ADM TB   
Xop1 vss vdd opout_dc opin opout  HoiLee_AFFC_Pin_3
Cload1 opout 0 'PARAM_CLOAD'

*   ACM TB    
xop2 vss vdd cm2 cm1 cm3  HoiLee_AFFC_Pin_3
Cload2 cm3 0 'PARAM_CLOAD'
vcmdc cm0 0 'supply_voltage*VCM_ratio'
vcmac1 cm1 cm0 0 ac=1
vcmac2 cm2 cm3 0 ac=1
.meas ac cmrrdc find vdb(cm3) at = 0.1 
.meas ac dcgain find vdb(opout) at = 0.1
.meas ac gain_bandwidth_product when vdb(opout)=0
.meas ac phase_in_rad find vp(opout) when vdb(opout)=0
.meas ac phase_in_deg param='phase_in_rad*180/3.1416'

* PSRR   TB   
VGNDApsrr gndpsrr 0 0 AC=1
VVDDApsrr vddpsrr 0 'supply_voltage'  AC=1
xop3 vss vddpsrr ppsr1 opin ppsr1  HoiLee_AFFC_Pin_3
Cload3 ppsr1 0 'PARAM_CLOAD'
xop4 gndpsrr vdd npsr1 opin npsr1  HoiLee_AFFC_Pin_3
Cload4 npsr1 0 'PARAM_CLOAD'
.measure ac DCPSRp find vdb(ppsr1) at = 0.1
.measure ac DCPSRn find vdb(npsr1) at = 0.1

* DC ALL  TB  
VVDDdc VDDdc 0 'supply_voltage' 
xop5 vss vdddc vout6 opin vout6  HoiLee_AFFC_Pin_3
Cload5 vout6 0 'PARAM_CLOAD'
* TC meas   
.measure dc maxval MAX V(vout6) from=-40 to=125
.measure dc minval MIN V(vout6) from=-40 to=125
.measure dc avgval AVG V(vout6) from=-40 to=125
.measure dc ppavl  PP V(vout6) from=-40 to=125
.measure dc TC param='ppavl/avgval/165'
* Power meas   
.meas dc Ivdd25 FIND I(VVDDDC) AT=25
.meas dc Power param='-1*Ivdd25*supply_voltage'
*   Vos.meas   
.meas dc vout25 FIND V(vout6) AT=25
.meas dc vos25 param = 'vout25-supply_voltage*VCM_ratio'

.option gmin=1e-12
.control

DC temp -40 125 0.1
plot v(vout6)

ac dec 10 0.1 1G
plot vdb(opout) vdb(cm3) vdb(ppsr1) vdb(npsr1)
plot vp(opout)

.endc

.end
